US08445510B2
3-[(S)-1-(2,6-Dichloro-3-fluorophenyl)ethyl]-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
To a stirred mixture of 5-bromo-3-[(S)-1-(2,6-dichloro-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine (450.0 mg, 1.160 mmol), potassium acetate (341 mg, 3.48 mmol), bis(pinacolato)diboron (412 mg, 1.62 mmol) in 1,4-dioxane (10 mL) was added (1,1′-bis-(diphenylphosphino)ferrocene) palladium dichloride (70 mg, 0.090 mmol) under Nitrogen atmosphere. The mixture was then stirred at 80° C. overnight. Solvents were removed under reduced pressure to give a residue which was then redissolved in DCM and dry-loaded onto silica gel. Column chromatography was used to purify, eluting with 30-40% EtOAc/hexanes. The fractions containing the product were concentrated in vacuo to afford the title compound as yellow gum. 1H NMR and LCMS data match with the data for the racemic compound.

reactant | 5-bromo-3-[(S)-1-(2,6-dichloro-3-fluorophenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | 1.160 mmol, 450.0 mg | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2
reactant | potassium acetate | 3.48 mmol, 341 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.62 mmol, 412 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | (1,1′-bis-(diphenylphosphino)ferrocene) palladium dichloride | 0.090 mmol, 70 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-[(S)-1-(2,6-Dichloro-3-fluorophenyl)ethyl]-5-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C21H22BCl2FN2O2
